US04202697
(a) p-propionyl-acetanilide
1290 g of aluminium chloride (9.6 mole) were suspended with stirring in 1500 ml of carbon disulphide. 405 g of acetanilide (3 moles) were added slowly to this suspension, while the temperature was kept at 25° C. The reaction mixture was heated until reflux and was cooled immediately to 25° C. 565 ml of propionyl chloride (6.5 moles) were added dropwise in such a way that the temperature was kept at 25° C. The reaction mixture was heated until reflux for 5 hours and kept overnight at ambient temperature (20° C.). The supernatant carbon disulphide layer was decanted and the remaining viscous mixture was poured in a mixture of ice and hydrochloric acid. The residue formed was filtered off and further recrystallized from a mixture of 1500 ml of ethanol and 75 ml of water. Drying was applied under vacuum at 100° C. A light yellow powder was obtained.

reactant | aluminium chloride | 9.6 mole, 1290 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetanilide | 3 moles, 405 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | propionyl chloride | 6.5 moles, 565 ml | C(CC)(=O)Cl | C3H5ClO
solvent | carbon disulphide | 1500 ml | C(=S)=S | CS2
product | p-propionyl-acetanilide | C(CC)(=O)C1=CC=C(NC(C)=O)C=C1 | C11H13NO2
